US05633366
12.47 g (28.1 mmol) of 2'-deoxy-2'-bromo-5'-O-acetyl-5-methyluridine were dissolved in 240 ml of methanol, and 6.91 g (3 equivalents) of sodium acetate were added thereto. To the reaction mixture, were added 1.25 g of 5% palladium-barium sulfate catalyst (0.1 equivalent). Then, the reaction system was filled with hydrogen gas and reacted for 24 hours at room temperature. The catalyst was removed from the reaction mixture, 100 ml of water were added, and the reaction mixture was neutralized to have a pH of 7.0 by adding an aqueous 25% sodium hydroxide solution thereto. The resulting solution was concentrated to about 100 ml, sodium chloride was added thereto until saturation, and the thus-saturated solution was extracted with ethyl acetate. The thus-extracted organic layer was washed with saturated saline solution, dried with anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain white crystals. The crystals were washed with a small amount of methylene chloride to obtain 3.04 g (10.7 mmol) of 5'-O-acetylthymidine. Its yield was 38.1%.

reactant | 2'-deoxy-2'-bromo-5'-O-acetyl-5-methyluridine | 28.1 mmol, 12.47 g | Br[C@H]1[C@@H](O[C@@H]([C@H]1O)COC(C)=O)N1C(=O)NC(=O)C(=C1)C | C12H15BrN2O6
reactant | sodium acetate | 6.91 g, 3 equivalents | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 240 ml | CO | CH4O
catalyst | palladium-barium sulfate | 1.25 g, 0.1 equivalent | S(=O)(=O)([O-])[O-].[Ba+2].[Pd+2].S(=O)(=O)([O-])[O-]
product | 5'-O-acetylthymidine | 10.7 mmol, 3.04 g, yield was 38.1% | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O | C12H16N2O6
